US08420655B2
3-{3-[1-tert-Butyl-5-(5-methoxy-pyridin-3-yl)-1H-benzimidazol-2-yl]-phenyl}-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester
3-[1-tert-Butyl-5-(5-methoxy-pyridin-3-yl)-1H-benzimidazol-2-yl]-N-hydroxy-benzamidine (0.500 g, 1.20 mmol) is dissolved in DMF (5 mL). Chloro-oxo-acetic acid ethyl ester (0.177 g, 1.30 mmol) is added followed by diisopropyl-ethylamine (1.5 mL). The reaction mixture is stirred at room temperature for 2 hours then heated at 110° C. for 16 hours. The solvent is removed in vacuum. The residue is purified by flash chromatography (silica gel 40 g, eluted with 0-100% ethyl acetate in hexane) to give the title compound (0.454 g, 76%). LCMS (ESMS): m/z 498.61 (M++1).

reactant | 3-[1-tert-Butyl-5-(5-methoxy-pyridin-3-yl)-1H-benzimidazol-2-yl]-N-hydroxy-benzamidine | 1.20 mmol, 0.500 g | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC=C(C2)OC)C=2C=C(C(=N)NO)C=CC2 | C24H25N5O2
reactant | Chloro-oxo-acetic acid ethyl ester | 1.30 mmol, 0.177 g | C(C)OC(C(=O)Cl)=O | C4H5ClO3
reactant | diisopropyl-ethylamine | 1.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-{3-[1-tert-Butyl-5-(5-methoxy-pyridin-3-yl)-1H-benzimidazol-2-yl]-phenyl}-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | 0.454 g, 76% | C(C)OC(=O)C1=NC(=NO1)C1=CC(=CC=C1)C1=NC2=C(N1C(C)(C)C)C=CC(=C2)C=2C=NC=C(C2)OC | C28H27N5O4
